US07915281B2
Ethoxyacetyl chloride (96%, 4.40 g, 34.3 mmol) was added to a 6° C. solution of 2-chloro-N4-pent-4-ynylquinoline-3,4-diamine (8.10 g, 31.2 mmol) and triethylamine (6.50 mL, 46.8 mmol) in dichloromethane (100 mL). Additional ethoxyacetyl chloride (3.0 g) was added after 45 minutes until all the starting material had been consumed. The solution was diluted with dichloromethane and washed with saturated aqueous potassium carbonate, water, and brine, dried over potassium carbonate, filtered, and concentrated to afford N-[2-chloro-4-(pent-4-ynylamino)quinolin-3-yl]-2-ethoxyacetamide as a pale yellow solid (10.23 g).

reactant | Ethoxyacetyl chloride | 34.3 mmol, 4.40 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 2-chloro-N4-pent-4-ynylquinoline-3,4-diamine | 31.2 mmol, 8.10 g | ClC1=NC2=CC=CC=C2C(=C1N)NCCCC#C | C14H14ClN3
reactant | triethylamine | 46.8 mmol, 6.50 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 3.0 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-[2-chloro-4-(pent-4-ynylamino)quinolin-3-yl]-2-ethoxyacetamide | 10.23 g | ClC1=NC2=CC=CC=C2C(=C1NC(COCC)=O)NCCCC#C | C18H20ClN3O2
